US08114868B2
To a mixture of 3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-isopropyl -1,3-oxazinan-2-one (100 mg, 0.26 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (198 mg, 0.783 mmol), potassium acetate (256 mg, 2.61 mmol) in DMSO (5 mL) was added Pd(dppf)Cl2 (21 mg, 0.0261 mmol) under N2. The mixture was stirred at 85° C. for 3 h, treated with EtOAc (50 mL) and water (50 mL). The organic layer was washed with water (2×50 mL) and brine (50 mL), dried, and concentrated to give the crude product. The crude product was purified by preparative TLC to give 6-(3-hydroxypropyl)-6-isopropyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (40 mg, 35%),

reactant | 3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-isopropyl -1,3-oxazinan-2-one | 0.26 mmol, 100 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(OC(CC1)(C(C)C)CCCO)=O | C18H26BrNO3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.783 mmol, 198 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 2.61 mmol, 256 mg | C(C)(=O)[O-].[K+]
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | Pd(dppf)Cl2 | 0.0261 mmol, 21 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 50 mL | O | H2O
product | 6-(3-hydroxypropyl)-6-isopropyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 40 mg, 35% | OCCCC1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(C)C | C24H38BNO5
